US05747516
Step D: Preparation of 4-[2-(Bromomethyl)phenyl]-2,4-dihydro-5-methoxy-2-methyl-3H-1,2,4-triazol-3-one
To a solution/suspension of 6.7 g 2,4-dihydro-5-methoxy-2-methyl-4-(2-methylphenyl)-3H-1,2,4-triazol-3-one dissolved in 95 mL carbon tetrachloride under N2 was added N-bromosuccinimide (6.53 g) followed by a catalytic amount of benzoyl peroxide. The solution was heated at reflux for 2 h. Another 1.63 g N-bromosuccinimide and a catalytic amount of benzoyl peroxide were added and the solution was heated at reflux for an hour. After cooling, methylene chloride was added and the organic layer was washed successively with water, then 0.1 N sodium thiosulfate solution, then saturated aqueous NaCl. The combined organic extracts were dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (3 -10% diethylether/methylene chloride as eluent) to afford 3.12 g of the title compound of Step D. 1H NMR (CDCl3) δ7.5 (m,1H), 7.44 (m,2H), 7.22 (m,1H), 4.60 (d,1H), 4.36 (d,1H), 3.96 (s,3H), 3.47 (s,3H).

reactant | 2,4-dihydro-5-methoxy-2-methyl-4-(2-methylphenyl)-3H-1,2,4-triazol-3-one | 6.7 g | COC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)C | C11H13N3O2
reactant | N-bromosuccinimide | 6.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 1.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 95 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-[2-(Bromomethyl)phenyl]-2,4-dihydro-5-methoxy-2-methyl-3H-1,2,4-triazol-3-one | 3.12 g | BrCC1=C(C=CC=C1)N1C(N(N=C1OC)C)=O | C11H12BrN3O2
